### PR TITLE
[Merged by Bors] - [Merged by Bors] - chore: sync Data.List.Rotate

### PR DESCRIPTION
**Pull request by urkud**
* [`data.list.rotate`@`ccad6d5093bd2f5c6ca621fc74674cce51355af6`..`f694c7dead66f5d4c80f446c796a5aad14707f0e`](https://leanprover-community.github.io/mathlib-port-status/file/data/list/rotate?range=ccad6d5093bd2f5c6ca621fc74674cce51355af6..f694c7dead66f5d4c80f446c796a5aad14707f0e)

Also add non-deprecated versions of some lemmas (use `List.get` instead of `List.nthLe`).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/List/Rotate.lean [hunk 1]
```diff
@@ -250,46 +240,82 @@ theorem zipWith_rotate_one {β : Type _} (f : α → α → β) (x y : α) (l :
...
-  cases' l with hd tl
-  · contradiction
-  · have : k ≤ tl.length := by
-      refine' Nat.le_of_lt_succ _
-      simpa using hk
-    rcases this.eq_or_lt with (rfl | hk')
-    · simp [nthLe_append_right le_rfl, nthLe_cons]
-    · simp [nthLe_append _ hk', length_cons, Nat.mod_eq_of_lt (Nat.succ_lt_succ hk'), nthLe_cons]
-#align list.nth_le_rotate_one List.nthLe_rotate_one
+-- porting note: new lemma
```
Comment (eric-wieser) [inline Mathlib/Data/List/Rotate.lean:243]: This isn't a new lemma, it's `#align`ed...

File: Mathlib/Data/List/Rotate.lean [hunk 2]
```diff
@@ -250,46 +240,82 @@ theorem zipWith_rotate_one {β : Type _} (f : α → α → β) (x y : α) (l :
...
+    (l.rotate n).get k =
+      l.get ⟨(k + n) % l.length, mod_lt _ (length_rotate l n ▸ k.1.zero_le.trans_lt k.2)⟩ := by
+  rw [← Option.some_inj, ← get?_eq_get, ← get?_eq_get, get?_rotate]
+  exact k.2.trans_eq (length_rotate _ _)
+
+theorem head?_rotate {l : List α} {n : ℕ} (h : n < l.length) : head? (l.rotate n) = l.get? n := by
+  rw [← get?_zero, get?_rotate (n.zero_le.trans_lt h), zero_add, Nat.mod_eq_of_lt h]
+#align list.head'_rotate List.head?_rotate
 
+set_option linter.deprecated false in
```
Comment (eric-wieser) [inline Mathlib/Data/List/Rotate.lean:277]:
```suggestion
# porting note: moved down from its original location below `get_rotate` for golfing purposes
set_option linter.deprecated false in
```
or similar

File: Mathlib/Data/List/Rotate.lean (hunk 1 above)
Comment (urkud) [reply Mathlib/Data/List/Rotate.lean:243]: Copy+paste error.

Comment (urkud) [reply Mathlib/Data/List/Rotate.lean:243]:
```suggestion
```

File: Mathlib/Data/List/Rotate.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Data/List/Rotate.lean:277]:
```suggestion
-- porting note: moved down from its original location below `get_rotate` so that the
-- non-deprecated lemma does not use the deprecated version
set_option linter.deprecated false in
```

Comment (Parcly-Taxel) [reply Mathlib/Data/List/Rotate.lean:277]: Done.

File: Mathlib/Data/List/Rotate.lean [hunk 3]
```diff
@@ -250,46 +240,85 @@ theorem zipWith_rotate_one {β : Type _} (f : α → α → β) (x y : α) (l :
...
+    (l.rotate n).get k =
+      l.get ⟨(k + n) % l.length, mod_lt _ (length_rotate l n ▸ k.1.zero_le.trans_lt k.2)⟩ := by
+  rw [← Option.some_inj, ← get?_eq_get, ← get?_eq_get, get?_rotate]
+  exact k.2.trans_eq (length_rotate _ _)
+
+theorem head?_rotate {l : List α} {n : ℕ} (h : n < l.length) : head? (l.rotate n) = l.get? n := by
+  rw [← get?_zero, get?_rotate (n.zero_le.trans_lt h), zero_add, Nat.mod_eq_of_lt h]
+#align list.head'_rotate List.head?_rotate
+
+-- porting note: moved down from its original location below `get_rotate` for golfing purposes
```
Comment (urkud) [inline Mathlib/Data/List/Rotate.lean:276]:
```suggestion
```

File: Mathlib/Data/List/Rotate.lean [hunk 4]
```diff
@@ -250,46 +240,85 @@ theorem zipWith_rotate_one {β : Type _} (f : α → α → β) (x y : α) (l :
...
-/-- A variant of `nthLe_rotate` useful for rewrites. -/
+set_option linter.deprecated false in
+theorem nthLe_rotate_one (l : List α) (k : ℕ) (hk : k < (l.rotate 1).length) :
+    (l.rotate 1).nthLe k hk =
+      l.nthLe ((k + 1) % l.length) (mod_lt _ (length_rotate l 1 ▸ k.zero_le.trans_lt hk)) :=
+  nthLe_rotate l 1 k hk
+#align list.nth_le_rotate_one List.nthLe_rotate_one
+
+/-- A variant of `List.nthLe_rotate` useful for rewrites from right to left. -/
 theorem nthLe_rotate' (l : List α) (n k : ℕ) (hk : k < l.length) :
```
Comment (urkud) [inline Mathlib/Data/List/Rotate.lean:295]:
```suggestion
set_option linter.deprecated false in
theorem nthLe_rotate' (l : List α) (n k : ℕ) (hk : k < l.length) :
```

**Comment by semorrison** [comment]
bors merge
